US05668147
Reference Example 1 a) Trans-1-benzyl-3-hydroxymethyl-4-trifluoromethylpyrrolidine
A mixed solution of 2.86 g (9.50 mmol) of trans-1-benzyl-4-trifluoromethylpyrrolidine-3-carboxylic acid ethyl ester and 15 ml of absolute tetrahydrofuran is added dropwise to the above suspension over 40 minutes on cooling with ice. After stirring at 0° C. for 1.5 hours, the excess reagent is decomposed by adding several drops of sodium sulfate (decahydrate) and 2N sodium hydroxide. Insoluble matter is removed by filtration under reduced pressure. The filtrate is concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (elusion solvent; n-hexane/ethyl acetate (5/1→5/2 (by volume, hereinafter the same))) to give 2.25 g of the objective substance as a colorless powder (yield 91.4%).

reactant | trans-1-benzyl-4-trifluoromethylpyrrolidine-3-carboxylic acid ethyl ester | 9.50 mmol, 2.86 g | C(C)OC(=O)[C@@H]1CN(C[C@H]1C(F)(F)F)CC1=CC=CC=C1 | C15H18F3NO2
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
catalyst | sodium sulfate | several drops | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | Trans-1-benzyl-3-hydroxymethyl-4-trifluoromethylpyrrolidine | yield 91.4% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C(F)(F)F)CO | C13H16F3NO
